US06239074B1
3-[4-Chloro-3-(2-carboxy-2-chloroethenyl)-phenyl]-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.41)
4.4 g of 3-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)-phenyl]-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine were added to a suspension of 0.8 g of sodium hydroxide in 100 ml of ethanol and stirring was carried out for 20 hours at room temperature. The reaction mixture was evaporated down, the residue was taken up in water and the solution was brought to pH 3 with 10% strength HCl. The precipitate which had separated out was isolated, washed with water and petroleum ether and dried under reduced pressure.

reactant | 3-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)-phenyl]-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 4.4 g | ClC1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)C=C(C(=O)OCC)Cl | C16H11Cl2F3N2O4
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[4-Chloro-3-(2-carboxy-2-chloroethenyl)-phenyl]-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)C=C(Cl)C(=O)O | C14H7Cl2F3N2O4
